US07091214B2
A suspension of 1-(4-aminobutyl)-7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine (2.42 g, 6.4 mmol) and triethylamine (0.99 mL, 7.1 mmol) in chloroform (240 mL) was cooled to 0° C., and cyclopentanecarbonyl chloride (0.78 mL, 6.4 mmol) was added dropwise over a period of five minutes. The reaction was stirred for ten minutes, washed sequentially with water (50 mL) and 1% aqueous sodium carbonate (100 mL), dried over sodium sulfate, and concentrated under reduced pressure. The residue was triturated with isopropanol:water (10 mL/g and 1.7 mL/g) and isolated by filtration. The filtrate was concentrated under reduced pressure and recrystallized from isopropanol (5 mL/g). The two solids were combined and dried overnight in a vacuum oven to provide 1.51 g of N-{4-[4-amino-7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl]butyl}cyclopentanecarboxamide as a light yellow solid.

reactant | 1-(4-aminobutyl)-7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 6.4 mmol, 2.42 g | NCCCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)Br)N)CCC | C17H22BrN5
reactant | triethylamine | 7.1 mmol, 0.99 mL | C(C)N(CC)CC | C6H15N
reactant | cyclopentanecarbonyl chloride | 6.4 mmol, 0.78 mL | C1(CCCC1)C(=O)Cl | C6H9ClO
solvent | chloroform | 240 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{4-[4-amino-7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl]butyl}cyclopentanecarboxamide | 1.51 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCCCNC(=O)C2CCCC2)CCC)Br | C23H30BrN5O
